US09278915B2
Intermediate 28: Methyl (1R,2R)-2-(4-nitrophenyl)cyclopropanecarboxylate
To a 500 mL RB flask fitted with magnetic stirrer was charged with 120 mL of DMF. To the stirred solvent was added (1R,2R)-2-(4-nitrophenyl)cyclo propane carboxylic acid (15 g, 72 mmol), K2CO3 (29 g, 217 mmol) and methyl iodide (5.5 mL, 86 mmol), stirred at RT for 8 h. The RM was poured into water (100 mL) and extracted with ethyl acetate (150 mL×2). The organic layer was washed with saturated NaHCO3 solution (50 mL), water (50 mL) and saturated brine solution (50 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as pale yellow color liquid (14 g, yield: 87.9%). MS (ESI, 120 eV): m/z=206.1 (M−H)+.

reactant | DMF | 120 mL | CN(C)C=O | C3H7NO
reactant | (1R,2R)-2-(4-nitrophenyl)cyclo propane carboxylic acid | 72 mmol, 15 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H9NO4
reactant | K2CO3 | 217 mmol, 29 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 86 mmol, 5.5 mL | CI | CH3I
solvent | water | 100 mL | O | H2O
product | Methyl (1R,2R)-2-(4-nitrophenyl)cyclopropanecarboxylate | 14 g, yield: 87.9% | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OC | C11H11NO4
